US07915270B2
Methyl 4-(2-(7-phenylheptanoyl)oxazol-5-yl)benzoate
Methyl 4-(2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzoate. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (85 mg, 0.128 mmol) and methyl 4-bromobenzoate following General Procedure A. Flash chromatography (2-10% EtOAc/hexanes) yielded the title compound as a clear oil (44 mg, 68%): 1H NMR (CDCl3, 500 MHz) δ 8.17 (d, 2H, J=8.5 Hz), 7.77 (d, 2H, J=8.5 Hz), 7.47 (s, 1H), 7.36-7.33 (m, 2H), 7.26-7.23 (m, 3H), 4.93 (t, 1H, J=6.0 Hz), 4.02 (s, 3H), 2.67 (t, 2H, J=7.5 Hz), 2.05-1.97 (m, 2H), 1.75-1.68 (m, 2H), 1.47-1.40 (m, 6H), 0.99 (s, 9H), 0.19 (s, 3H), 0.09 (s, 3H); 13C NMR (CDCl3, 125 MHz) δ 166.9, 166.2, 150.6, 143.2, 132.5, 130.7, 130.0, 128.8, 128.6, 126.0, 124.3, 124.1, 69.1, 52.6, 36.8, 36.3, 31.8, 29.6, 26.2, 26.2, 25.5, 18.6, −4.5, −4.7.

reactant | Methyl 4-(2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzoate | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=CC=C(C(=O)OC)C=C1 | C30H41NO4Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.128 mmol, 85 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | methyl 4-bromobenzoate | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
product | Methyl 4-(2-(7-phenylheptanoyl)oxazol-5-yl)benzoate | 44 mg, 68% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=CC=C(C(=O)OC)C=C1 | C24H25NO4
